* c:\esimavkk\flashadc\flashadc.cir

.include avsd_opamp.sub
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
x3 net-_sc1-pad3_ net-_x1-pad2_ vin net-_sc1-pad2_ net-_u3-pad1_ gnd avsd_opamp
x4 net-_sc1-pad3_ net-_x1-pad2_ vin net-_sc2-pad2_ net-_u3-pad2_ gnd avsd_opamp
x5 net-_sc1-pad3_ net-_x1-pad2_ vin net-_sc4-pad2_ net-_u3-pad4_ gnd avsd_opamp
x6 net-_sc1-pad3_ net-_x1-pad2_ vin net-_sc5-pad2_ net-_u3-pad5_ gnd avsd_opamp
x2 net-_sc1-pad3_ net-_x1-pad2_ vin net-_sc6-pad2_ net-_u3-pad6_ gnd avsd_opamp
x7 net-_sc1-pad3_ net-_x1-pad2_ vin net-_sc7-pad2_ net-_u3-pad7_ gnd avsd_opamp
x8 net-_sc1-pad3_ net-_x1-pad2_ vin net-_sc8-pad1_ net-_u3-pad8_ gnd avsd_opamp
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ vout1 vout2 vout3 priencode83
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd  L=0.85
xsc5 net-_sc4-pad2_ net-_sc5-pad2_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd  L=0.85
xsc4 net-_sc3-pad2_ net-_sc4-pad2_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd  L=0.85
xsc3 net-_sc2-pad2_ net-_sc3-pad2_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd  L=0.85
xsc2 net-_sc1-pad2_ net-_sc2-pad2_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd  L=0.85
xsc6 net-_sc5-pad2_ net-_sc6-pad2_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd L=0.85
xsc7 net-_sc6-pad2_ net-_sc7-pad2_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd L=0.85
x1 net-_sc1-pad3_ net-_x1-pad2_ vin net-_sc3-pad2_ net-_u3-pad3_ gnd avsd_opamp
xsc9 net-_sc7-pad2_ net-_sc8-pad1_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd L=0.85
xsc8 net-_sc8-pad1_ gnd net-_sc1-pad3_ sky130_fd_pr__res_generic_pd L=0.85
v2 net-_sc1-pad1_ gnd  dc 1
v1  vin gnd sine(0 0.25 1 0 0)
v3 net-_sc1-pad3_ gnd  dc 1
v4 net-_x1-pad2_ gnd  dc 1
* u5  vout1 plot_v1
* u6  vout2 plot_v1
* u7  vout3 plot_v1
* s c m o d e
* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ adc_bridge_8
* u1  vin plot_v1
a1 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ ] [vout1 vout2 vout3 ] u2
a2 [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ ] [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ ] u3
* Schematic Name:                             priencode83, NgSpice Name: priencode83
.model u2 priencode83(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0.01e-00 10e-00 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vout1)
plot v(vout2)
plot v(vout3)
plot v(vin)
.endc
.end
